US05455252
2-bromo-4-(cyclopropylmethyl)aniline and glycerol can be combined to form 6-(cyclopropylmethyl)-8-bromoquinoline,

reactant | 2-bromo-4-(cyclopropylmethyl)aniline | BrC1=C(N)C=CC(=C1)CC1CC1 | C10H12BrN
reactant | glycerol | OCC(O)CO | C3H8O3
product | 6-(cyclopropylmethyl)-8-bromoquinoline | C1(CC1)CC=1C=C2C=CC=NC2=C(C1)Br | C13H12BrN
